US09120778B2
N-(6,7-Dimethoxyquinolin-4-yl)-benzene-1,4-diamine (6,7-Dimethoxyquinolin-4-yl)-(4-nitrophenyl)amine (0.425 g, 1.31 mmol), palladium hydroxide (0.0844 g, 0.601 mmol) and potassium carbonate (0.542 g, 3.92 mmol) in methanol (106 mL) were hydrogenation on a Parr apparatus at 40 psi overnight. The mixture was filtered through Celite and concentrated to yield a crude product which was purified by prep. HPLC to yield N-(6,7-dimethoxyquinolin-4-yl)-benzene-1,4-diamine (0.13 g, 33%). LCMS m/z=296 (M+1).

reactant | N-(6,7-Dimethoxyquinolin-4-yl)-benzene-1,4-diamine (6,7-Dimethoxyquinolin-4-yl)-(4-nitrophenyl)amine | 1.31 mmol, 0.425 g | COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC=C(C=C1)[N+](=O)[O-].COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC=C(C=C1)N
reactant | potassium carbonate | 3.92 mmol, 0.542 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 106 mL | CO | CH4O
catalyst | palladium hydroxide | 0.601 mmol, 0.0844 g | [OH-].[Pd+2].[OH-]
product | N-(6,7-dimethoxyquinolin-4-yl)-benzene-1,4-diamine | 0.13 g, 33% | COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC=C(C=C1)N | C17H17N3O2
